US07678815B2
1,3-Difluoro-2-isothiocyanato-benzene was synthesized as follows, according to scheme 1. A solution of 2,6-difluoro aniline (0.13 g, 1.01 mmol) in dichloromethane (10.00 ml) was treated with thiophosgene (0.12 g, 1.06 mmol) and diisopropylethylamine (0.26 g, 2.01 mmol). The mixture was stirred for 1 h at room temperature. The solvent was then evaporated, leaving 1,3-difluoro-2-isothiocyanato-benzene (0.17 g, 99%) as a light brown gum, which was used crude.

reactant | 2,6-difluoro aniline | 1.01 mmol, 0.13 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | thiophosgene | 1.06 mmol, 0.12 g | C(=S)(Cl)Cl | CCl2S
reactant | diisopropylethylamine | 2.01 mmol, 0.26 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10.00 ml | ClCCl | CH2Cl2
product | 1,3-difluoro-2-isothiocyanato-benzene | 0.17 g, 99% | FC1=C(C(=CC=C1)F)N=C=S | C7H3F2NS
